US06156700
Preparation of 3-[3-(1,1-Dimethyl-2-oxopropyl)-1,2-benzisothiazol-5-yl]-1-methyl-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione
N,N-Dimethylformamide (8 drops) is added to a mixture of 5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-α,α-dimethyl-1,2-benzisothiazole-3-acetic acid (0.800 g, 0.00194 mol) and methylene chloride. The mixture is cooled on an ice bath and oxalyl chloride (2.0 M in methylene chloride, 2.42 ml, 0.00484 mol) is added. The resultant mixture is stirred one hour on an ice bath and concentrated in vacuo. The residue is taken up in tetrahydrofuran. The resultant solution is added dropwise to a mixture of methyl zinc chloride (2.0 M, 0.970 ml, 0.00194 mol) in tetrahydrofuran, followed by addition of palladium tetrakistriphenylphosphine (0.220 g, 0.000190 mol). The resultant mixture is stirred overnight at room temperature, quenched with 10% hydrochloric acid, and extracted with ethyl acetate. The organic layer is washed with saturated sodium bicarbonate and brine, dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo to an orange solid. The solid is chromatographed on silica gel to afford the title compound as an off-white solid (0.270 g, 65.7%, mp 195-196° C.).

reactant | 5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-α,α-dimethyl-1,2-benzisothiazole-3-acetic acid | 0.00194 mol, 0.800 g | CN1C(N(C(C=C1C(F)(F)F)=O)C=1C=CC2=C(C(=NS2)C(C(=O)O)(C)C)C1)=O | C17H14F3N3O4S
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | oxalyl chloride | 0.00484 mol, 2.0 M, 2.42 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | methyl zinc chloride | 0.00194 mol, 2.0 M, 0.970 ml | [Cl-].C[Zn+]
catalyst | N,N-Dimethylformamide | 8 drops | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-[3-(1,1-Dimethyl-2-oxopropyl)-1,2-benzisothiazol-5-yl]-1-methyl-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione | 0.270 g, 65.7% | CC(C(C)=O)(C)C1=NSC2=C1C=C(C=C2)N2C(N(C(=CC2=O)C(F)(F)F)C)=O | C18H16F3N3O3S
